US07632829B2
(rac)-3-Hydroxy-2-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester
A suspension of 5 g (31.00 mmol) of 2-hydroxymethyl-pyridin-3-ol hydrochlorid and 2.50 g 5% Rh/Alox in 100 ml AcOEt was stirred under hydrogen atmosphere 20 h at 25° C. and 8 bar. The suspension was filtered and evaporated to give an yellow oil. The crude product was treated with 8.78 g (40.00 mmol) BOC2O and 12 ml (93.00 mmol) Hunig's base in 30 ml DMF under ice cooling for 25 h. An extraction (water/brine/AcOEt) and two crystallizations (AcOEt, MeCN/CH2Cl2) gave 1.77 g (25%) of the title compound as a white solid. MS: 232.0 (MH+).

reactant | 2-hydroxymethyl-pyridin-3-ol hydrochlorid | 31.00 mmol, 5 g | Cl.OCC1=NC=CC=C1O
reactant | BOC2O | 40.00 mmol, 8.78 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | Hunig's base | 93.00 mmol, 12 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | AcOEt | 100 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (rac)-3-Hydroxy-2-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.77 g, 25% | C(C)(C)(C)OC(=O)N1C(C(CCC1)O)CO | C11H21NO4
